US04163801
2-(3-Bromo-5chloro-2-hydroxybenzyl)-6-[1-(3,5-dichloro-2-hydroxyphenyl)ethyl]-4-fluorophenol (30)
2-(5-Chloro-2-hydroxybenzyl)-6-[1-(3,5-dichloro-2-hydroxyphenyl) ethyl]-4-fluorophenol was brominated using bromine in acetic acid at room temperature to give the title compound; m.p. 171°.

reactant | 2-(5-Chloro-2-hydroxybenzyl)-6-[1-(3,5-dichloro-2-hydroxyphenyl) ethyl]-4-fluorophenol | ClC=1C=CC(=C(CC2=C(C(=CC(=C2)F)C(C)C2=C(C(=CC(=C2)Cl)Cl)O)O)C1)O | C21H16Cl3FO3
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-Bromo-5chloro-2-hydroxybenzyl)-6-[1-(3,5-dichloro-2-hydroxyphenyl)ethyl]-4-fluorophenol | BrC=1C(=C(CC2=C(C(=CC(=C2)F)C(C)C2=C(C(=CC(=C2)Cl)Cl)O)O)C=C(C1)Cl)O | C21H15BrCl3FO3
